US09169215B2
A mixture of 3-(cyclopentylamino)-2-(2,4,5-trimethoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile (153 mg, 0.401 mmol) and DMSO (20 mL) was heated gently to dissolve all the solids. The resulting brown solution was stored for 30 days at RT. As a result, some solids were precipitated which was collected by filtration and the filtrate was diluted with water (˜100 mL). The resulting solids were collected by filtration and washed with diethyl ether. These solids were again purified by HPLC using acetonitrile and ammonium acetate as eluent to obtain 16.5 mg (10% yield) of (E)-5-amino-1-(1-(cyclopentylimino)-2-(2,4,5-trimethoxyphenyl)-2-oxoethyl)-1H-pyrazole-4-carbonitrile as a brown solid. 1H NMR (400 MHz, DMSO-d6) δ: 1.40-1.85 (br m, 8H), 3.65 (s, 3H), 3.67 (p, 1H), 3.79 (s, 3H), 3.91 (s, 3H), 6.72 (s, 1H), 7.35 (s, 1H), 7.63 (s, 1H), 8.06 (br s, 2H). LC/MS calcd. for C20H23N5O4 (m/e) 397.433, obsd. 398.3 (M+H, ES+).

reactant | 3-(cyclopentylamino)-2-(2,4,5-trimethoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile | 0.401 mmol, 153 mg | C1(CCCC1)NC1=C(NC=2N1N=CC2C#N)C2=C(C=C(C(=C2)OC)OC)OC | C20H23N5O3
reactant | DMSO | 20 mL | CS(=O)C | C2H6OS
product | (E)-5-amino-1-(1-(cyclopentylimino)-2-(2,4,5-trimethoxyphenyl)-2-oxoethyl)-1H-pyrazole-4-carbonitrile | 16.5 mg, 10% yield | NC1=C(C=NN1/C(/C(=O)C1=C(C=C(C(=C1)OC)OC)OC)=N/C1CCCC1)C#N | C20H23N5O4
